US08536187B2
To a mixture of Bis(pinacolato)diboron (3.05 g, 12 mmol), X-phos (0.076 g, 0.16 mmol), Pd(dba)3 (0.073 g, 0.08 mmol) and KOAc (1.17 g, 12 mmol) in dioxane (16 mL) at 110° C. was added a solution of 4-bromo-1-methyl-2-(methylsulfonyl)benzene (1.0 g, 4 mmol) in dioxane (10 mL) over 7 min. The reaction mixture was stirred at 110° C. for 2 hour, then cooled to room temperature and filtered through paper filtration and a layer of diatomaceous earth. The filtrate was washed twice with water and twice with brine. The organic layer was dried (Na2SO4), filtered, concentrated and purified by silica gel column chromatography to give 770 mg of 2-(4-methyl-3-(methylsulfonyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane.

reactant | Bis(pinacolato)diboron | 12 mmol, 3.05 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 12 mmol, 1.17 g | CC(=O)[O-].[K+]
reactant | 4-bromo-1-methyl-2-(methylsulfonyl)benzene | 4 mmol, 1.0 g | BrC1=CC(=C(C=C1)C)S(=O)(=O)C | C8H9BrO2S
solvent | dioxane | 16 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | X-phos | 0.16 mmol, 0.076 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
product | 2-(4-methyl-3-(methylsulfonyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 770 mg | CC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)S(=O)(=O)C | C14H21BO4S
